US07514473B2
(a) 3-(3-Hydroxy-phenyl)-propionic acid ethyl ester
To a solution of commercially available 3-(3-hydroxy-phenyl)-propionic acid (25 g, 150.4 mmol) in ethanol (250 mL) was added concentrated sulfuric acid (3.0 mL). The solution was heated to reflux overnight. The solvent was removed in vacuo, and the resulting oil was diluted ethyl acetate and placed in a separatory funnel. The organic portion was extracted 2× with 5% NaHCO3 and once with brine. The solution was dried (MgSO4), filtered and concentrated to a dark tan oil (30 g). This material was carried on to the next step without further purification.

reactant | 3-(3-hydroxy-phenyl)-propionic acid | 150.4 mmol, 25 g | OC=1C=C(C=CC1)CCC(=O)O | C9H10O3
reactant | sulfuric acid | 3.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 250 mL | C(C)O | C2H6O
product | 3-(3-Hydroxy-phenyl)-propionic acid ethyl ester | C(C)OC(CCC1=CC(=CC=C1)O)=O | C11H14O3
